US09334290B2
A mixture of 2-amino-4-bromo-5-methylbenzonitrile (2.95 g, 14.0 mmol) in a mixture of EtOH (21 mL) and 2 M aqueous NaOH (34.9 mL, 69.9 mmol) was heated at reflux overnight. After cooling to room temperature, the ethanol was removed under reduced pressure, and the aqueous residue was diluted with water. After adjustment of the pH to about 5 with concentrated aqueous HCl, the mixture was stirred for 30 min and the precipitate was collected by filtration and washed with water. The resulting wet solid was dissolved in EtOAc, washed with brine, dried and concentrated to provide 2-amino-4-bromo-5-methylbenzoic acid as a pale yellow solid (2.92 g, 91% yield). Mass spectrum m/z 212, 214 (M+H)+.

reactant | 2-amino-4-bromo-5-methylbenzonitrile | 14.0 mmol, 2.95 g | NC1=C(C#N)C=C(C(=C1)Br)C | C8H7BrN2
reactant | NaOH | 69.9 mmol, 2 M, 34.9 mL | [OH-].[Na+]
reactant | EtOH | 21 mL | CCO | C2H6O
product | 2-amino-4-bromo-5-methylbenzoic acid | 2.92 g, 91% yield | NC1=C(C(=O)O)C=C(C(=C1)Br)C | C8H8BrNO2
